US07576092B2
Step B: 2-Amino-benzo[4,5]thieno[3,2-d]pyrimidin-4-ol hydrochloride.
A suspension of 3-amino-benzo[b]thiophene-2-carboxylic acid methyl ester (1.03 g, 5.0 mmol) and chloroformamidine hydrochloride (800 mg, 7.0 mmol) in diglyme (8 mL) were heated at 160° C. for 1 h. The resulting suspension was cooled to rt and filtered, and the collected solid was suction dried to give the title compound (1.14 g, 90%). 1H NMR (DMSO-d6): 8.06 (d, J=7.9 Hz, 1H), 7.89 (d, J=8.1 Hz, 1H), 7.73-7.47 (m, 2H), 7.45-7.39 (m, 1H), 7.38-7.33 (m, 1H), 7.18 (s, 0.6H), 7.05 (s, 0.6H), 6.92 (s, 0.6H).

reactant | 3-amino-benzo[b]thiophene-2-carboxylic acid methyl ester | 5.0 mmol, 1.03 g | COC(=O)C1=C(C2=C(S1)C=CC=C2)N | C10H9NO2S
reactant | chloroformamidine hydrochloride | 7.0 mmol, 800 mg | Cl.ClC(=N)N
solvent | diglyme | 8 mL | COCCOCCOC | C6H14O3
product | 2-Amino-benzo[4,5]thieno[3,2-d]pyrimidin-4-ol hydrochloride | 1.14 g, 90% | Cl.NC=1N=C(C2=C(N1)C1=C(S2)C=CC=C1)O | InChI=1S/C10H7N3OS.ClH/c11-10-12-7-5-3-1-2-4-6(5)15-8(7)9(14)13-10;/h1-4H,(H3,11,12,13,14);1H
